US04345100
27.8 (0.25 mole) of pivaloyl cyanide, dissolved in 22 g (0.25 mole) of t-butyl methyl ether were added to a reaction mixture, which had been initially introduced into the reaction vessel, consisting of 37.5 g of concentrated sulphuric acid and 52.5 g of glacial acetic acid at 20° to 30° C. in the course of 30 minutes. After subsequently stirring the reaction mixture at room temperature for 2 hours, it was poured onto 125 g of ice and stirred thoroughly. The product which precipitated was filtered off, washed with water and dried. 40.8 g (87.5% of theory) of analytically pure trimethylpyruvic acid N-tert.-butylamide with a melting point of 65° C. and a content of >99% (determined by gas chromatography) were obtained.

reactant | pivaloyl cyanide | C(C(C)(C)C)(=O)C#N | C6H9NO
reactant | t-butyl methyl ether | 0.25 mole, 22 g | COC(C)(C)C | C5H12O
reactant | sulphuric acid | 37.5 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 52.5 g | C(C)(=O)O | C2H4O2
product | trimethylpyruvic acid N-tert.-butylamide | C(C)(C)(C)NC(C(=O)C(C)(C)C)=O | C10H19NO2
